US04537855
4.6 g of glycerine was dissolved in 50 g of ethyl acetate, to which several drops of triethylamine was added while agitating. Thereafter, a 1,4-dioxane solution of 10 g of acrylic chloride was dropped into the solution, followed by agitating at room temperature for further 2 hours and further agitating for 1 hour after raising the temperature up to 50° C. The reaction solution was discharged and admixed with water, followed by shaking, removing water-soluble components from the system and distilling off the 1,4-dioxane to obtain glycerol-1,3-diacrylate. 10 g (0.05 mole) of the glycerol-1,3-diacrylate, 20.2 g (0.03 mole) of a partially esterified product of styrene/maleic anhydride copolymer ("Styrite CM-2L", molecular weight≈5000, product of Sankyo Kasei Co., Ltd.), 20 mg of hydroquinone were dissolved in 85 g of 1,4-dioxane and agitated at 90° C for 4 hours, followed by dropping the reaction solution into 3 liters of water and drying the resulting precipitate in vacuo, thereby obtaining a carboxylic acid semi-ester polymer (polyfunctional resin).

reactant | glycerine | 4.6 g | OCC(O)CO | C3H8O3
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | acrylic chloride | 10 g | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
reactant | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | several drops | C(C)N(CC)CC | C6H15N
product | glycerol-1,3-diacrylate | C(C=C)(=O)OCC(O)COC(C=C)=O | C9H12O5
